US07122580B2
(2S)-[(4-Chloro-4′-trifluoromethyl-biphenyl-3-carbonyl)-amino]-3-(4′-trifluoromethyl-biphenyl-4-yl)-propionic acid
(2S)-(5-Bromo-2-chloro-benzoyl-amino)-3-(4-bromo-phenyl)-propionic acid (100 mg, 0.21 mmol) was reacted with 4-trifluoromethyl-phenyl-boronic acid (243 mg, 1.2 mmol) by following general procedure D yielding the title compound (114 mg, 75%) as a light yellow solid.

reactant | (2S)-(5-Bromo-2-chloro-benzoyl-amino)-3-(4-bromo-phenyl)-propionic acid | 0.21 mmol, 100 mg | BrC=1C=CC(=C(C(=O)N[C@H](C(=O)O)CC2=CC=C(C=C2)Br)C1)Cl | C16H12Br2ClNO3
reactant | 4-trifluoromethyl-phenyl-boronic acid | 1.2 mmol, 243 mg | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
product | (2S)-[(4-Chloro-4′-trifluoromethyl-biphenyl-3-carbonyl)-amino]-3-(4′-trifluoromethyl-biphenyl-4-yl)-propionic acid | 114 mg, 75% | ClC1=C(C=C(C=C1)C1=CC=C(C=C1)C(F)(F)F)C(=O)N[C@H](C(=O)O)CC1=CC=C(C=C1)C1=CC=C(C=C1)C(F)(F)F | C30H20ClF6NO3
